US04536507
3-Cyano-8-nitrodibenzo[b,f]thiepin-5,5-dioxide
2 G. 3-cyano-8-nitrodibenzo[b,f]thiepin is dissolved in 600 cc. chloroform and 12 g. m-chloroperbenzoic acid added. The solution is stirred for 24 hours. Excess powdered calcium hydroxide is added, the mixture filtered through celite, the filtrate evaporated to dryness and the residue chromatographed on silica gel. Elution with 5% ethyl acetate in benzene afforded 1.36 g. (61%) of pure sulfone.

reactant | 3-cyano-8-nitrodibenzo[b,f]thiepin | C(#N)C=1C=CC2=C(SC3=C(C=C2)C=C(C=C3)[N+](=O)[O-])C1 | C15H8N2O2S
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | calcium hydroxide | [OH-].[Ca+2].[OH-]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-Cyano-8-nitrodibenzo[b,f]thiepin-5,5-dioxide | C(#N)C=1C=CC2=C(S(C3=C(C=C2)C=C(C=C3)[N+](=O)[O-])(=O)=O)C1 | C15H8N2O4S
